US07687491B2
(23c) 6-({[t-Butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxypyridine-3-carboximidamide
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1d) using 6-({[t-butyl(dimethyl)silyl]oxy}methyl)nicotinonitrile (2.0 g, 8.1 mmol) that was obtained in Example 23 (23b) and a 40% aqueous solution of hydroxylamine (1 ml). Subsequently, the crude product of the title compound thus obtained was purified by recrystallization from a mixed solvent of ethyl acetate and hexane (1:9) to afford the title compound (2.1 g) in a yield of 94% as a white crystalline solid.

reactant | 6-({[t-butyl(dimethyl)silyl]oxy}methyl)nicotinonitrile | 8.1 mmol, 2.0 g | [Si](C)(C)(C(C)(C)C)OCC1=NC=C(C#N)C=C1 | C13H20N2OSi
reactant | hydroxylamine | 1 ml | NO | H3NO
product | 6-({[t-Butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxypyridine-3-carboximidamide | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(C=N1)C(N)=NO | C13H23N3O2Si
